US06815455B1
Synthesis of 2-(6-hydroxyheptyl)-1H-benzimidazole
3.28 g of methyl 6-hydroxyheptanoate and 2.16 g of phenylenediamine were dissolved in a mixed solvent of 10 ml of concentrated hydrochloric acid and 20 ml of water, and the mixture was refluxed with stirring under heating for 24 hours. After cooling to room temperature, the reaction mixture was adjusted to pH 8 with about 100 ml of 1 N sodium hydroxide solution and saturated aqueous sodium hydrogencarbonate. The reaction mixture was extracted three times with 150 ml of ethyl acetate, and the organic layer was washed with saturated brine and dried over sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate—ethyl acetate:methanol=95:5) to obtain 3.03 g of the title compound as pale brown solid (yield: 70%).

reactant | methyl 6-hydroxyheptanoate | 3.28 g | OC(CCCCC(=O)OC)C | C8H16O3
reactant | phenylenediamine | 2.16 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium hydroxide | 1 N, about 100 ml | [OH-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 2-(6-hydroxyheptyl)-1H-benzimidazole | 3.03 g, yield: 70% | OC(CCCCCC1=NC2=C(N1)C=CC=C2)C | C14H20N2O
